** Name: SimpleTwoStageOpAmp_SimpleOpAmp6_2

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp6_2 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 FirstStageYinnerOutputLoad1 FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=18e-6
mNormalTransistorNmos5 out inputVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=113e-6
mNormalTransistorNmos6 outFirstStage FirstStageYinnerOutputLoad1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=2e-6 W=7e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack2Load1 sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mNormalTransistorNmos8 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=8e-6 W=73e-6
mNormalTransistorPmos9 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=387e-6
mNormalTransistorPmos10 out ibias sourcePmos sourcePmos pmos4 L=2e-6 W=352e-6
mNormalTransistorPmos11 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=9e-6
mNormalTransistorPmos12 FirstStageYinnerOutputLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=9e-6
mNormalTransistorPmos13 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=42e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp6_2

** Expected Performance Values: 
** Gain: 86 dB
** Power consumption: 2.28601 mW
** Area: 2538 (mu_m)^2
** Transit frequency: 3.20301 MHz
** Transit frequency with error factor: 3.1956 MHz
** Slew rate: 9.45879 V/mu_s
** Phase margin: 65.3172°
** CMRR: 94 dB
** negPSRR: 96 dB
** posPSRR: 129 dB
** VoutMax: 4.75 V
** VoutMin: 0.710001 V
** VcmMax: 3.72001 V
** VcmMin: 0.640001 V


** Expected Currents: 
** NormalTransistorPmos: -214.908 muA
** DiodeTransistorNmos: 11.8451 muA
** NormalTransistorNmos: 11.8441 muA
** NormalTransistorNmos: 11.8451 muA
** DiodeTransistorNmos: 11.8441 muA
** NormalTransistorPmos: -23.6909 muA
** NormalTransistorPmos: -11.8459 muA
** NormalTransistorPmos: -11.8459 muA
** NormalTransistorNmos: 198.555 muA
** NormalTransistorNmos: 198.554 muA
** NormalTransistorPmos: -198.554 muA
** DiodeTransistorNmos: 214.909 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.18601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.11401  V
** out: 2.5  V
** outFirstStage: 0.910001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad1: 1.20801  V
** innerTransistorStack1Load1: 0.603001  V
** innerTransistorStack2Load1: 0.604001  V
** sourceTransconductance: 3.53201  V
** innerTransconductance: 0.505001  V


.END