** Name: SimpleTwoStageOpAmp_SimpleOpAmp71_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp71_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=7e-6 W=36e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=36e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=7e-6 W=118e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=9e-6 W=121e-6
mDiodeTransistorPmos5 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=8e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=358e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=9e-6 W=122e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=493e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=546e-6
mNormalTransistorNmos10 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=7e-6 W=118e-6
mNormalTransistorNmos11 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=86e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=175e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=32e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=32e-6
mNormalTransistorNmos15 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=7e-6 W=178e-6
mNormalTransistorPmos16 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=358e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=9e-6 W=35e-6
mNormalTransistorPmos18 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=9e-6 W=35e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=9e-6 W=52e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=9e-6 W=52e-6
mNormalTransistorPmos21 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=8e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 6.80001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp71_5

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 6.63101 mW
** Area: 14891 (mu_m)^2
** Transit frequency: 4.49901 MHz
** Transit frequency with error factor: 4.49786 MHz
** Slew rate: 6.01036 V/mu_s
** Phase margin: 65.3172°
** CMRR: 105 dB
** VoutMax: 3.29001 V
** VoutMin: 0.150001 V
** VcmMax: 4.66001 V
** VcmMin: 1.36001 V


** Expected Currents: 
** NormalTransistorNmos: 23.4781 muA
** NormalTransistorNmos: 136.506 muA
** NormalTransistorPmos: -33.9059 muA
** NormalTransistorPmos: -58.1229 muA
** NormalTransistorPmos: -33.9059 muA
** NormalTransistorPmos: -58.1229 muA
** DiodeTransistorNmos: 33.9051 muA
** NormalTransistorNmos: 33.9051 muA
** NormalTransistorNmos: 48.4321 muA
** NormalTransistorNmos: 48.4311 muA
** NormalTransistorNmos: 24.2161 muA
** NormalTransistorNmos: 24.2161 muA
** NormalTransistorNmos: 1039.93 muA
** NormalTransistorPmos: -1039.92 muA
** DiodeTransistorPmos: -1039.92 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -23.4789 muA
** NormalTransistorPmos: -23.4799 muA
** DiodeTransistorPmos: -136.505 muA
** DiodeTransistorPmos: -136.506 muA


** Expected Voltages: 
** ibias: 1.11201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.37201  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXpXX1: 2.72601  V
** outSourceVoltageBiasXXnXX1: 0.556001  V
** outSourceVoltageBiasXXpXX1: 3.86301  V
** outSourceVoltageBiasXXpXX2: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.557001  V
** out1: 0.559001  V
** sourceGCC1: 3.63101  V
** sourceGCC2: 3.63101  V
** sourceTransconductance: 1.84401  V
** inner: 3.86101  V


.END