** Name: SimpleTwoStageOpAmp_SimpleOpAmp72_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp72_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=252e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=52e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=22e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=5e-6 W=29e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=6e-6 W=79e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=29e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=393e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=5e-6 W=29e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=12e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=12e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=52e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=252e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=588e-6
mNormalTransistorPmos14 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=6e-6 W=123e-6
mNormalTransistorPmos15 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=292e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=322e-6
mNormalTransistorPmos17 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=6e-6 W=123e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=90e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=90e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp72_7

** Expected Performance Values: 
** Gain: 77 dB
** Power consumption: 11.4391 mW
** Area: 14273 (mu_m)^2
** Transit frequency: 3.18201 MHz
** Transit frequency with error factor: 3.1812 MHz
** Slew rate: 6.09711 V/mu_s
** Phase margin: 65.8902°
** CMRR: 101 dB
** VoutMax: 4.25 V
** VoutMin: 0.550001 V
** VcmMax: 5.06001 V
** VcmMin: 1.42001 V


** Expected Currents: 
** NormalTransistorPmos: -102.146 muA
** NormalTransistorPmos: -112.641 muA
** NormalTransistorPmos: -20.9889 muA
** NormalTransistorPmos: -31.4829 muA
** NormalTransistorPmos: -20.9889 muA
** NormalTransistorPmos: -31.4829 muA
** DiodeTransistorNmos: 20.9881 muA
** NormalTransistorNmos: 20.9881 muA
** NormalTransistorNmos: 20.9891 muA
** DiodeTransistorNmos: 20.9881 muA
** NormalTransistorNmos: 10.4951 muA
** NormalTransistorNmos: 10.4951 muA
** NormalTransistorNmos: 1990.07 muA
** NormalTransistorPmos: -1990.06 muA
** DiodeTransistorNmos: 102.147 muA
** NormalTransistorNmos: 102.146 muA
** DiodeTransistorNmos: 112.642 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.32401  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.11801  V
** outSourceVoltageBiasXXnXX1: 0.559001  V
** outSourceVoltageBiasXXpXX1: 4.09501  V
** outVoltageBiasXXnXX2: 0.953001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.611001  V
** sourceGCC1: 4.12701  V
** sourceGCC2: 4.12701  V
** sourceTransconductance: 1.78901  V
** inner: 0.558001  V


.END