** Name: SimpleTwoStageOpAmp_SimpleOpAmp73_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp73_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=45e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=74e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=12e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=19e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=576e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=3e-6 W=50e-6
mNormalTransistorNmos8 FirstStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=14e-6
mNormalTransistorNmos9 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=64e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=64e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=10e-6 W=142e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=198e-6
mNormalTransistorPmos14 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=46e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=340e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=484e-6
mNormalTransistorPmos17 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=46e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=110e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=110e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp73_7

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 12.9121 mW
** Area: 6548 (mu_m)^2
** Transit frequency: 9.90401 MHz
** Transit frequency with error factor: 9.90407 MHz
** Slew rate: 7.94482 V/mu_s
** Phase margin: 65.3172°
** CMRR: 142 dB
** VoutMax: 4.25 V
** VoutMin: 0.290001 V
** VcmMax: 5.16001 V
** VcmMin: 1.45001 V


** Expected Currents: 
** NormalTransistorPmos: -181.195 muA
** NormalTransistorPmos: -253.653 muA
** NormalTransistorPmos: -34.2419 muA
** NormalTransistorPmos: -58.6219 muA
** NormalTransistorPmos: -34.2429 muA
** NormalTransistorPmos: -58.6219 muA
** NormalTransistorNmos: 34.2411 muA
** NormalTransistorNmos: 34.2421 muA
** DiodeTransistorNmos: 34.2411 muA
** NormalTransistorNmos: 48.7591 muA
** NormalTransistorNmos: 48.7581 muA
** NormalTransistorNmos: 24.3801 muA
** NormalTransistorNmos: 24.3801 muA
** NormalTransistorNmos: 2010.38 muA
** NormalTransistorPmos: -2010.37 muA
** DiodeTransistorNmos: 181.196 muA
** DiodeTransistorNmos: 253.654 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.32301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.19301  V
** outVoltageBiasXXnXX1: 1.09201  V
** outVoltageBiasXXnXX2: 0.691001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.575001  V
** innerStageBias: 0.486001  V
** out1: 1.13601  V
** sourceGCC1: 4.17501  V
** sourceGCC2: 4.17501  V
** sourceTransconductance: 1.94501  V


.END