** Name: SimpleTwoStageOpAmp_SimpleOpAmp74_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp74_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=6e-6 W=27e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=171e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=8e-6 W=250e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=11e-6
mNormalTransistorNmos6 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=8e-6 W=250e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=379e-6
mNormalTransistorNmos8 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=137e-6
mNormalTransistorNmos9 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=8e-6 W=250e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=77e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=77e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=6e-6 W=171e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=27e-6
mNormalTransistorPmos14 outFirstStage outInputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=26e-6
mNormalTransistorPmos15 out outInputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=2e-6 W=587e-6
mNormalTransistorPmos16 FirstStageYout1 outInputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=26e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=20e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=20e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=573e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp74_3

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 14.4481 mW
** Area: 14113 (mu_m)^2
** Transit frequency: 21.1291 MHz
** Transit frequency with error factor: 21.1288 MHz
** Slew rate: 25.3814 V/mu_s
** Phase margin: 68.755°
** CMRR: 137 dB
** VoutMax: 3.01001 V
** VoutMin: 0.5 V
** VcmMax: 4.69001 V
** VcmMin: 1.33001 V


** Expected Currents: 
** NormalTransistorNmos: 50.7661 muA
** NormalTransistorPmos: -59.5209 muA
** NormalTransistorPmos: -90.8649 muA
** NormalTransistorPmos: -59.5209 muA
** NormalTransistorPmos: -90.8649 muA
** NormalTransistorNmos: 59.5201 muA
** NormalTransistorNmos: 59.5201 muA
** DiodeTransistorNmos: 59.5201 muA
** NormalTransistorNmos: 62.6871 muA
** DiodeTransistorNmos: 62.6881 muA
** NormalTransistorNmos: 31.3431 muA
** NormalTransistorNmos: 31.3431 muA
** NormalTransistorNmos: 2647.06 muA
** NormalTransistorPmos: -2647.05 muA
** NormalTransistorPmos: -2647.06 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -50.7669 muA
** DiodeTransistorPmos: -50.7679 muA


** Expected Voltages: 
** ibias: 1.13301  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.905001  V
** outInputVoltageBiasXXpXX1: 2.40601  V
** outSourceVoltageBiasXXnXX1: 0.567001  V
** outSourceVoltageBiasXXpXX1: 3.72001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.555001  V
** out1: 1.11001  V
** sourceGCC1: 3.47401  V
** sourceGCC2: 3.47401  V
** sourceTransconductance: 1.89801  V
** innerStageBias: 3.67701  V
** inner: 0.566001  V


.END